US09238639B2
E) Methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate
A mixture of methyl(4,7-dichloro-6-methoxy-1-benzothiophen-3-yl)acetate (300.9 mg), DMF (dry) (9.0 mL) and sodium 2-methyl-2-propanethiolate (442 mg) was stirred at 160° C. for 20 min. The mixture was quenched with water and 1N HCl and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo to give (4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetic acid (327 mg) as a crude mixture. A crude mixture of (4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetic acid (369 mg) was dissolved in MeOH (10 mL). To the solution was added conc. H2SO4 (0.100 mL). The mixture was stirred at 80° C. for 40 min. The mixture was concentrated. The residue was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The solid was washed with hexane to give the title compound (345 mg).

reactant | (4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetic acid | 369 mg | ClC1=CC(=C(C2=C1C(=CS2)CC(=O)O)Cl)O | C10H6Cl2O3S
reactant | H2SO4 | 0.100 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 10 mL | CO | CH4O
product | Methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate | 345 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)O)Cl)=O | C11H8Cl2O3S
